US07666659B2
Recombinant Escherichia coli HB101 (PNTRS) (Accession Number: FERM BP-08545) was inoculated in 50 ml of 2× YT medium (containing 1.6% of tripeptone, 1.0% of yeast extract, 0.5% of NaCl, and 50 mg of zinc sulfate.7H2O, pH=7.0) sterilized in a 500-ml Sakaguchi Flask and incubated while shaking at 30° C. for 40 hours. To 25 ml of the resultant culture solution, 1,000 units of glucose dehydrogenase (manufactured by Amano Enzyme Inc.), 2.5 g of ethyl 2-formylhexanoate, 3 mg of NAD, 4 g of glucose, and 50 mg of zinc sulfate.7H2O were added, the culture solution was stirred at 30° C. for 24 hours while adding 2.5 M aqueous solution of sodium hydroxide dropwise to the culture solution to adjust to pH 6.5. After completion of the reaction, 100 ml of ethyl acetate was added to the reaction solution for extraction and the organic layer was distilled off under reduced pressure. Thereafter, the product was purified by silica gel chromatography to obtain an oily ethyl (R)-2-hydroxymethylhexanoate. The yield was 90% and the optical purity was 93.6% e.e. Note that analysis for optical purity was performed as follows. The product was derivatized with a HPLC labeling agent (3,5-dinitrobenzoyl chloride), and analyzed by HPLC using a Chiralcel OD-H column, 0.46×25 cm I.D. (manufactured by Daicel Chemical Industries, Ltd.).

reactant | NaCl | [Na+].[Cl-]
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ethyl 2-formylhexanoate | 2.5 g | C(=O)C(C(=O)OCC)CCCC | C9H16O3
reactant | NAD | 3 mg | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | glucose | 4 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | zinc sulfate | 50 mg | S(=O)(=O)([O-])[O-].[Zn+2]
catalyst | zinc sulfate | 50 mg | S(=O)(=O)([O-])[O-].[Zn+2]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | ethyl (R)-2-hydroxymethylhexanoate | yield was 90% | OC[C@H](C(=O)OCC)CCCC | C9H18O3
